US06586421B2
(5aS*,10bS*)-10-(3,5-difluorophenyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole
In a 50 mL 2-neck round-bottomed flask 10-(3,5-difluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole hydrochloride was dissolved in TFA (3 mL) and cooled to 0° C. A solution of sodium cyanoborohydride (0.084 g, 1.34 mmol) in MeOH was added and the mixture was stirred at room temperature for 2 h. Water was added, followed by 15% NaOH until the pH of the mixture was basic, and the mixture was extracted with EtOAc. The organic layer was concentrated to give 0.21 g of a brown oil. Column chromatography (elution with 2-6% MeOH/chloroform) gave 0.060 g (74%) of the title product as a clear oil: MS (EI) m/z 300 (M+), 300, 256, 255, 244, 243, 242, 240, 229, 201, 56; HRMS (FAB) calcd for C18H18F2N2+H1 301.1516, found 301.1500.

reactant | sodium cyanoborohydride | 1.34 mmol, 0.084 g | C(#N)[BH3-].[Na+]
reactant | Water | O | H2O
reactant | NaOH | [OH-].[Na+]
reactant | 10-(3,5-difluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole hydrochloride | Cl.FC=1C=C(C=C(C1)F)C=1C=2C3=C(NC2C=CC1)CCNCC3
solvent | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeOH | CO | CH4O
product | (5aS*,10bS*)-10-(3,5-difluorophenyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole | 0.21 g | FC=1C=C(C=C(C1)F)C=1C=2[C@H]3[C@@H](NC2C=CC1)CCNCC3 | C18H18F2N2
